US07214742B2
2-[4-(2-hydroxyethoxy)phenyl]-4,6-bis-[2-hydroxy-4-(2-hydroxyethoxy) phenyl]-1,3,5-triazine (compound No. 11)
2-[4-Hydroxyphenyl)-4,6-bis-(2,4-dihydroxyphenyl)-1,3,5-triazine (10 g) is suspended in 100 ml 2 ethoxyethanol and heated to 100° C. Benzyltriphenylphosphonium chloride (0.12 g) is added followed by ethylenecarbonate (8.59 g) over a period of 7 hours. The reaction mixture is stirred at 135° C. for 10 hours then cooled to RT. The crystals are filtered off, washed with 100 ml cold methanol and 100 ml cold water and dried under reduced pressure. The title compound (9.0 g) is obtained with mp 169° C.

reactant | 2-[4-Hydroxyphenyl)-4,6-bis-(2,4-dihydroxyphenyl)-1,3,5-triazine | 10 g | OC1=CC=C(C=C1)C1=NC(=NC(=N1)C1=C(C=C(C=C1)O)O)C1=C(C=C(C=C1)O)O | C21H15N3O5
reactant | ethoxyethanol | C(C)OC(C)O | C4H10O2
catalyst | Benzyltriphenylphosphonium chloride | 0.12 g | [Cl-].C(C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-[4-(2-hydroxyethoxy)phenyl]-4,6-bis-[2-hydroxy-4-(2-hydroxyethoxy) phenyl]-1,3,5-triazine | 9.0 g | OCCOC1=CC=C(C=C1)C1=NC(=NC(=N1)C1=C(C=C(C=C1)OCCO)O)C1=C(C=C(C=C1)OCCO)O | C27H27N3O8
